US08067408B2
205(a) 3-{[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]carbonyl}benzoic acid (1150 mg, 2.0 mmol) was dissolved in dichloromethane (DCM) (100 mL), and then HBTU (830 mg, 2.2 mmol), 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (620 mg, 2.0 mmol), and DIPEA (1.4 mL, 8.0 mmol) were added. The mixture was allowed to stir under argon at room temperature overnight. Solvents were concentrated and then purified on a 40 g Redi-Sep cartridge and eluting with 0.5% MeOH in DCM. Collected clean fractions were combined solvent concentrated to give 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (1.15 g, 66.5%) as a white solid.

reactant | 3-{[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]carbonyl}benzoic acid | 2.0 mmol, 1150 mg | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(=O)C=1C=C(C(=O)O)C=CC1)C | C32H36FN3O5
reactant | HBTU | 2.2 mmol, 830 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 2.0 mmol, 620 mg | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | DIPEA | 8.0 mmol, 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 1.15 g, 66.5% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)F)CC | C48H59FN8O5
